US07838543B2
2′-Chloro-4′-fluoro-biphenyl-carboxylic Acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.20 g, 0.42 mmol) and 2-(2-chloro-4-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.18 g, 0.71 mmol) to afford 0.072 g (35%). LC/MS, Retention time 4.98 min; (m/z): calcd for C25H24ClFN4OS: 483.0; found: 483.0.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.42 mmol, 0.20 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 2-(2-chloro-4-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.71 mmol, 0.18 g | ClC1=C(C=CC(=C1)F)B1OC(C(O1)(C)C)(C)C | C12H15BClFO2
product | 2′-Chloro-4′-fluoro-biphenyl-carboxylic Acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C=2C(=CC=CC2)C2=C(C=C(C=C2)F)Cl)C)C | C25H24ClFN4OS
